US06410562B1
Step D: 5-Chloro-2-heptylbenzo[b]thiophene (=n-C7H15)
To a solution of 0.36 g (1.36 mmol) of 5-chloro-2-(hepten-1-yl)benzo[b]thiophene in 50 ml methanol were added 5 g (15 mmol) of borohydride exchange resin and 375 mg (1.51 mmol) Ni(II)acetate tetrahydrate, and the mixture was refluxed for 1 h. It was cooled to room temperature and the resin removed by filtration. The resin was heated twice with 50 ml methanol, and the combined filtrates were concentrated under reduced pressure. The residue was eluted through a column of silica gel with hexane, and the eluant was evaporated to give 175 mg (48%) of the title compound as a colorless resinous oil; MS 266 (M+).

reactant | 5-chloro-2-(hepten-1-yl)benzo[b]thiophene | 1.36 mmol, 0.36 g | ClC1=CC2=C(SC(=C2)C=CCCCCC)C=C1 | C15H17ClS
reactant | borohydride | 15 mmol, 5 g | [BH4-]
solvent | methanol | 50 ml | CO | CH4O
product | 5-Chloro-2-heptylbenzo[b]thiophene | 175 mg, 48% | ClC1=CC2=C(SC(=C2)CCCCCCC)C=C1 | C15H19ClS
